US08809335B2
3-(4-(tert-butyldimethylsilyl)-3,5-difluoro-6-((S)-3-((R)-3-methyl-2-((trimethylsilyl)oxy)butan-2-yl)piperazin-1-yl)pyridin-2-yl)-1H-pyrazolo[3,4-d]pyrimidine
tert-butyl-dimethyl-[2,3,5-trifluoro-6-(1H-pyrazolo[3,4-d]pyrimidin-3-yl)-4-pyridyl]silane (170 mg, 0.42 mmol), (2R)-3-methyl-2-[(2S)-piperazin-2-yl]butan-2-ol (109.8 mg, 0.64 mmol), imidazol-1-yl-trimethyl-silane (297.9 mg, 310.3 μL, 2.12 mmol) were dissolved in THF (420 μL). The reaction mixture was heated at 90° C. for 2 days under sealed tube conditions. After this time, the reaction mixture was allowed to cool to ambient temperature and diluted with EtOAc, washed with saturated aqueous NaHCO3, water, brine, dried (MgSO4), filtered and concentrated in vacuo. The crude mixture was purified by column chromatography (ISCO Companion™, 24 g column, eluting with 1-5% NH4OH:MeOH (1:9)/DCM) to give the sub title compound as cream solid 134 mg, 53.5% Yield). H1 NMR (400 MHz, DMSO) δ 14.26 (H, d), 9.66 (H, s), 8.97 (H, s), 3.82 (H, d), 3.60 (H, d), 3.06 (H, dd), 3.72 (4H, m), 1.75 (2H, m), 1.10 (3H, d), 0.80 (15H, m), 0.35 (6H, s) and 0.00 (9H, s).

reactant | tert-butyl-dimethyl-[2,3,5-trifluoro-6-(1H-pyrazolo[3,4-d]pyrimidin-3-yl)-4-pyridyl]silane | 0.42 mmol, 170 mg | C(C)(C)(C)[Si](C1=C(C(=NC(=C1F)C1=NNC2=NC=NC=C21)F)F)(C)C | C16H18F3N5Si
reactant | (2R)-3-methyl-2-[(2S)-piperazin-2-yl]butan-2-ol | 0.64 mmol, 109.8 mg | CC([C@@](C)(O)[C@H]1NCCNC1)C | C9H20N2O
reactant | imidazol-1-yl-trimethyl-silane | 2.12 mmol, 310.3 μL, 297.9 mg | N1(C=NC=C1)[Si](C)(C)C | C6H12N2Si
solvent | THF | 420 μL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-(tert-butyldimethylsilyl)-3,5-difluoro-6-((S)-3-((R)-3-methyl-2-((trimethylsilyl)oxy)butan-2-yl)piperazin-1-yl)pyridin-2-yl)-1H-pyrazolo[3,4-d]pyrimidine | 134 mg, 53.5% Yield | [Si](C)(C)(C(C)(C)C)C1=C(C(=NC(=C1F)N1C[C@H](NCC1)[C@@](C)(C(C)C)O[Si](C)(C)C)C1=NNC2=NC=NC=C21)F | C28H45F2N7OSi2
